US05021441
(ii) 10,10,10-Trifluorodecyl-triphenylphosphonium bromide
A stirred solution of 1-bromo-10,10,10-trifluorodecane (4.75 g) and triphenylphosphine (4.53 g) in acetonitrile (100 ml) was heated under reflux for 3 days. The solution was evaporated under vacuum and the residue was washed with ether, dissolved in toluene and the solution diluted with ether to give the product as a hygroscopic solid.

reactant | 1-bromo-10,10,10-trifluorodecane | 4.75 g | BrCCCCCCCCCC(F)(F)F | C10H18BrF3
reactant | triphenylphosphine | 4.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 10,10,10-Trifluorodecyl-triphenylphosphonium bromide | [Br-].FC(CCCCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(F)F | InChI=1S/C28H33F3P.BrH/c29-28(30,31)23-15-4-2-1-3-5-16-24-32(25-17-9-6-10-18-25,26-19-11-7-12-20-26)27-21-13-8-14-22-27;/h6-14,17-22H,1-5,15-16,23-24H2;1H/q+1;/p-1
